US05668147
EXAMPLE 1 a) Trans-3-hydroxymethyl-4-trifluoromethylpyrrolidine hydrochloride
In 20 ml of ethanol, is dissolved 2.20 g (8.49 mmol) of trans-1-benzyl-3-hydroxymethyl-4-trifluoromethylpyrrolidine, and 1 ml of conc-hydrochloric acid is added to the solution. A hydrogenation is performed by adding 440 mg of 10% palladium carbon to the above solution at 40° C. and 1 atmospheric pressure. Four hours later, the catalyzer was removed by filtration, and the filtrate was concentrated under reduced pressure to give 1.74 g of the objective substance as a colorless powder (yield 99.7%).

reactant | trans-1-benzyl-3-hydroxymethyl-4-trifluoromethylpyrrolidine | 8.49 mmol, 2.20 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C(F)(F)F)CO | C13H16F3NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium carbon | 440 mg | [C].[Pd]
product | Trans-3-hydroxymethyl-4-trifluoromethylpyrrolidine hydrochloride | yield 99.7% | Cl.OC[C@@H]1CNC[C@H]1C(F)(F)F | InChI=1S/C6H10F3NO.ClH/c7-6(8,9)5-2-10-1-4(5)3-11;/h4-5,10-11H,1-3H2;1H/t4-,5+;/m0./s1
